US20010016659A1
Entry 14: 4-Chloropyridine-2-carbonyl chloride HCl salt was reacted with annmonia according to Method A2, Step 3b to form 4-chloro-2-pyridinecarboxamide. 4-Chloro-2-pyridinecarboxamide was reacted with 4-aminophenol according to Method A2, Step 4 using DMAC in place of DMF to give 4-(2-carbamoyl-4-pyridyloxy)aniline. According to Method C4, 2-methoxy-5-(trifluoromethyl)aniline was reacted with phosgene followed by 4-(2-carbamoyl-4-pyridyloxy)aniline to afford the urea.

reactant | 4-Chloro-2-pyridinecarboxamide | ClC1=CC(=NC=C1)C(=O)N | C6H5ClN2O
reactant | 4-aminophenol | NC1=CC=C(C=C1)O | C6H7NO
solvent | DMAC | CC(=O)N(C)C | C4H9NO
product | 4-(2-carbamoyl-4-pyridyloxy)aniline | C(N)(=O)C1=NC=CC(=C1)OC1=CC=C(N)C=C1 | C12H11N3O2
